US09108903B2
To a solution of 2-(4-fluorophenoxy)-4-(trifluoromethyl)benzaldehyde (1.16 g, 4.08 mmol) in tBuOH (11.60 mL), water (7.30 mL), acetonitrile (7.30 mL) was added sodium dihydrogen phosphate (1.47 g, 12.25 mmol), 2-methyl-2-butene (2.16 mL, 20.42 mmol) and sodium chlorite (1.11 g, 12.25 mmol) and the reaction mixture was stirred at 25° C. for 2 hours. The reaction was acidified with 1N HCl and diluted with ethyl acetate. Sodium sulfide was added to remove the slightly yellow color. The 2 layers were separated and the aqueous layer extracted 2 additional times with ethyl acetate. The organics were combined, dried with MgSO4, filtered and evaporated to give 2-(4-fluorophenoxy)-4-(trifluoromethyl)benzoic acid (1.0 g, 82%) as a yellow solid that was used in the next step without further purification. 1H NMR (400 MHz, DMSO) δ 8.01 (d, J=8.0 Hz, 1H), 7.62 (d, J=7.9 Hz, 1H), 7.33-7.18 (m, 3H), 7.14-7.01 (m, 2H) ppm.

reactant | 2-(4-fluorophenoxy)-4-(trifluoromethyl)benzaldehyde | 4.08 mmol, 1.16 g | FC1=CC=C(OC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C1 | C14H8F4O2
reactant | sodium dihydrogen phosphate | 12.25 mmol, 1.47 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 20.42 mmol, 2.16 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 12.25 mmol, 1.11 g | Cl(=O)[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | Sodium sulfide | [S-2].[Na+].[Na+]
solvent | tBuOH | 11.60 mL | CC(C)(C)O | C4H10O
solvent | water | 7.30 mL | O | H2O
solvent | acetonitrile | 7.30 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-fluorophenoxy)-4-(trifluoromethyl)benzoic acid | 1.0 g, 82% | FC1=CC=C(OC2=C(C(=O)O)C=CC(=C2)C(F)(F)F)C=C1 | C14H8F4O3
